US08012974B2
The mixture of allyl-(3,5-dibromo-pyrazin-2-yl)-amine (3.51 g, 12.0 mmol), TEA (4 mL, 28.8 mmol), sodium formate (204 mg, 3.00 mmol), Bu4NH4Br (580 mg, 1.80 mmol), and Pd(OAc)2 (269 mg, 1.20 mmol) in 24 mL of DMF was heated at 50° C. overnight then cooled to RT. The reaction mixture was partitioned between EtOAc and brine. The organic layer was dried (MgSO4), concentrated, and purified by SiO2 chromatography (120 g SiO2, hexanes/EtOAc 0-70% EtOAc) to give 0.279 g of 2-bromo-7-methyl-5H-pyrrolo[2,3-b]pyrazine (11% yield).

reactant | allyl-(3,5-dibromo-pyrazin-2-yl)-amine | 12.0 mmol, 3.51 g | C(C=C)NC1=NC=C(N=C1Br)Br | C7H7Br2N3
reactant | sodium formate | 3.00 mmol, 204 mg | C(=O)[O-].[Na+]
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 1.20 mmol, 269 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-bromo-7-methyl-5H-pyrrolo[2,3-b]pyrazine | 0.279 g, 11% yield | BrC=1N=C2C(=NC1)NC=C2C | C7H6BrN3
